US06828276B2
0.550 g (1.60 mmol) of 2-chloro-3-cyclopentylmethoxy-4-ethylsulfonylbenzoic acid, 0.196 g (1.70 mmol) of cyclohexane-1,3-dione, 0.279 g (1.40 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride and 0.002 g of dimethylaminopyridine were stirred for 10 hours at room temperature in 15 ml of methylene chloride. The mixture was subsequently diluted with methylene chloride and washed with 0.5 N HCl, with water, with saturated NaHCO3 solution and again with water. After the combined organic phases had been dried over Na2SO4 and evaporated completely on a rotary evaporator, 3-oxo-1-cyclohexenyl 2-chloro-3-cyclopentylmethoxy-4-ethylsulfonylbenzoate was obtained in the form of a brown resin.

reactant | 2-chloro-3-cyclopentylmethoxy-4-ethylsulfonylbenzoic acid | 1.60 mmol, 0.550 g | ClC1=C(C(=O)O)C=CC(=C1OCC1CCCC1)S(=O)(=O)CC | C15H19ClO5S
reactant | cyclohexane-1,3-dione | 1.70 mmol, 0.196 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 1.40 mmol, 0.279 g | Cl.CN(CCCN=C=NCC)C
reactant | dimethylaminopyridine | 0.002 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-oxo-1-cyclohexenyl 2-chloro-3-cyclopentylmethoxy-4-ethylsulfonylbenzoate | ClC1=C(C(=O)OC2=CC(CCC2)=O)C=CC(=C1OCC1CCCC1)S(=O)(=O)CC | C21H25ClO6S
